US08058276B2
Step 12.3: 6-Hydroxy-benzo[b]thiophene-3-carboxylic acid ethyl ester
To a solution of 4.72 g (20 mMol) 6-methoxy-benzo[b]thiophene-3-carboxylic acid ethyl ester in 200 ml CH2Cl2 at −10° C., 40 ml of a 1 M solution of BBr3 in CH2Cl2 are added via syringe during 12 min. The solution is stirred for 3.5 h at −10 to 0° C., then diluted with 600 ml EtOAc and poured into 450 ml of a mixture of sat. NaHCO3 and ice. After 5 min, the aq. layer is separated off and extracted 3× with 120 ml EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and after addition of SiO2 concentrated. The resulting powder is put on top of a SiO2-column and the title compound eluted with hexan/EtOAc 4:1: m.p.: 128-129° C.; TLC(hexane/EtOAc 4:1): Rf=0.18.

reactant | 6-methoxy-benzo[b]thiophene-3-carboxylic acid ethyl ester | 20 mMol, 4.72 g | C(C)OC(=O)C=1C2=C(SC1)C=C(C=C2)OC | C12H12O3S
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 600 ml | CCOC(=O)C | C4H8O2
product | 6-Hydroxy-benzo[b]thiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(SC1)C=C(C=C2)O | C11H10O3S
